US05405839
A 1.46 g amount of 5,6-dimethylbenzimidazole was dissolved in 50 ml of dry N,N-dimethylformamide, 0.96 g of NaH was added to the solution, and the mixture was stirred in an ice-water bath for 30 minutes. Then to the mixture was added dropwise 5 ml of ethylene chloride, the mixture was stirred at room temperature for 15 hours, and the reaction was further carried out for 24 hours while adding 0.78 g of NaH. The reaction was stopped by an addition of 50 ml of water, and the obtained reaction mixture was washed with n-hexane, diluted with water, adjusted to a pH of 2.5 with HCl, and then applied to an ion exchange column (Dowex 50 (hydrogen ion form)). An elution was effected successively with water, 30% ethanol, and ammoniacal 30% ethanol, and the fractions eluted with ammoniacal 30% ethanol were concentrated to dryness under a reduced pressure to give crude 1-(2-hydroxy-ethyl)-5,6-dimethylbenzimidazole. The conversion to this compound from 5,6-dimethylbenzimidazole was found to be 75% by an assay according to thin layer chromatography.

reactant | 5,6-dimethylbenzimidazole | CC1=CC2=C(N=CN2)C=C1C | C9H10N2
reactant | NaH | 0.96 g | [H-].[Na+]
reactant | ethylene chloride | 5 ml | C(CCl)Cl | C2H4Cl2
reactant | NaH | 0.78 g | [H-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(2-hydroxy-ethyl)-5,6-dimethylbenzimidazole | OCCN1C=NC2=C1C=C(C(=C2)C)C | C11H14N2O
